US06777408B1
t-butyl 5-(2-chlorophenyl)-1,2,3,4,5,6,7,9-octahydro-4-(3-methyl-2-butenyl)-2-oxo-1-(2-phenyl-ethyl)-8H-pyrido[4′,3′:4,5]thieno[2,3-e]-1,4-diazepine-8-carboxylate
0.5 g of t-butyl 5-2-chlorophenyl)-1,2,3,4,5,6,7,9-octahydro-2-oxo-1-(2-phenylethyl)-8H-pyrido[4′,3′:4,5]thieno[2,3-e]-1,4-diazepine-8-carboxylate (1 mmol) is dissolved in anhydrous tetrahydrofuiran (20 ml). Sodium hydride dispersed at 60% (0.028 g, 1.1 mmol) is added by portions. The reaction meum is left until release ends then 1-bromo-3-methyl-2-butene (0.125 ml, 1.1 Immol) is added dropwise. Agitation is carried out for 3 hours at 23° C. and the reaction medium is heated all night at 60° C. then the halogenated derivative (0.125 ml, 1.1 mmol) is added. After heating for 48 hours at 60° C., the reaction medium is poured into a saturated solution of ammonium chloride (30 ml) then ethyl acetate (30 ml) is added. After decanting, the aqueous phase is extracted with ethyl acetate (30ml). The organic phase is dried over magnesium sulphate, filtered and the solvent-is evaporated off. After purification by chromatography on a silica column (eluent: ethyl acetate-heptane: 20-80 to 50-50), the fractions containing only the product are evaporated and the desired product is obtained in the form of a pale yellow amorphous powder (0.47 g, 79%).

reactant | 1,2,3,4,5,6,7,9-octahydro-2-oxo-1-(2-phenylethyl)-8H-pyrido[4′,3′:4,5]thieno[2,3-e]-1,4-diazepine-8-carboxylate | 1 mmol | O=C1CNCC2=C(N1CCC1=CC=CC=C1)SC1=C2CCN(C1)C(=O)[O-]
reactant | Sodium hydride | [H-].[Na+]
reactant | 1-bromo-3-methyl-2-butene | 0.125 ml | BrCC=C(C)C | C5H9Br
reactant | ammonium chloride | 30 ml | [Cl-].[NH4+]
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | t-butyl 5-(2-chlorophenyl)-1,2,3,4,5,6,7,9-octahydro-4-(3-methyl-2-butenyl)-2-oxo-1-(2-phenyl-ethyl)-8H-pyrido[4′,3′:4,5]thieno[2,3-e]-1,4-diazepine-8-carboxylate | ClC1=C(C=CC=C1)C1C2=C(N(C(CN1CC=C(C)C)=O)CCC1=CC=CC=C1)SC1=C2CCN(C1)C(=O)OC(C)(C)C | C34H40ClN3O3S
